US04435397
Five grams of 7-(2,3-epoxypropoxy)cumarin obtained by the reaction of 7-hydroxycumarin with epibromohydrin in methyl ethyl ketone in the presence of anhydrous potassium carbonate is heated at reflux for seven hours with 3.1 g of N-carbamoylpiperazine in 100 ml of methanol. After the reaction, methanol is evaporated therefrom in vacuo and the residual crystals are washed with ethyl acetate to give 7.9 g of the product. Hydrochloride recrystallized from a mixture of ethanol and dimethyl formamide melts at 198°-200° C.

reactant | 7-hydroxycumarin | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | epibromohydrin | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 7-(2,3-epoxypropoxy)cumarin | Five grams | O1C(COC2=CC=C3C=CC(OC3=C2)=O)C1 | C12H10O4
